US04170704
To a solution of 20.0 g (0.21 mole) 4-hydroxypyridine and 200 ml dimethyl sulfoxide was added 102 g (0.1 mole) silver carbonate. Propargyl chloride (22.5 g, 0.3 mole) was added to this suspension and the mixture heated at 50° for 6 hrs. After cooling to room temperature, the reaction mixture was diluted with water and extracted two times with ether. The combined ether extract was dried, filtered and concentrated as before to give 1.0 g of 4-(propynyloxy)pyridine. The product was 95% pure by vpc. The nmr and ir were compatible with the structure.

reactant | 4-hydroxypyridine | 0.21 mole, 20.0 g | OC1=CC=NC=C1 | C5H5NO
reactant | dimethyl sulfoxide | 200 ml | CS(=O)C | C2H6OS
reactant | Propargyl chloride | 0.3 mole, 22.5 g | C(C#C)Cl | C3H3Cl
solvent | water | O | H2O
catalyst | silver carbonate | 0.1 mole, 102 g | C([O-])([O-])=O.[Ag+2]
product | 4-(propynyloxy)pyridine | 1.0 g | C(#CC)OC1=CC=NC=C1 | C8H7NO
